### PR TITLE
Add Erdős Problem 511 (large components of polynomial lemniscates), link the formal proof

### LINKED ISSUE #6320: Erdős Problem 511
### What is the Erdős problem?

https://www.erdosproblems.com/511

Let $f(z)\in \mathbb{C}[z]$ be a monic polynomial of degree $n$. Is it true that, for every $c>1$, the set $\{ z\in \mathbb{C} : \lvert f(z)\rvert< 1\}$ has at most $O_c(1)$ many connected components of diameter $>c$ (where the implied constant is in particular independent of $n$)?

Status: disproved (Pommerenke [Po61], independently Huang [Hu25]). A formal proof exists in plby/lean-proofs (`Erdos511.not_erdos_511`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-30

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6320.

### What changed
Adds `FormalConjectures/ErdosProblems/511.lean` with `components s` (connected components of `s ⊆ ℂ`, via `connectedComponentIn`):
- `erdos_511` (`research solved`, `answer(False)`): it is false that for every `c > 1` the number of components of `{|f| < 1}` of diameter `> c` is bounded uniformly over monic `f` (Pommerenke [Po61], Huang [Hu25]). Linked to plby/lean-proofs `Erdos511.not_erdos_511` (Codex and GPT-5.6 Sol; 2 Mathlib-only files).
- Sorry'd literature variants: Pommerenke's theorem (`k` components of `{|f| ≤ 1}` of diameter `≥ d` for any `0 < d < 4`) and Pólya's bound (no component of `{|f| ≤ 1}` has diameter `> 4`).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos511.not_erdos_511` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby witnesses `B + 1` distinct large components; the bridge compares with the `encard` bound):

<details>
<summary>Bridge</summary>

```lean
open Polynomial Metric

namespace Bridge511

lemma componentsIn_subset (s : Set ℂ) :
    Erdos511Plby.componentsIn s ⊆ Erdos511.components s := by
  rintro C ⟨⟨x, hx⟩, rfl⟩
  exact ⟨x, hx, (connectedComponentIn_eq_image hx).symm⟩

theorem erdos_511_bridge : type_of% Erdos511.erdos_511 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  apply Erdos511Plby.not_erdos_511
  intro d hd
  obtain ⟨B, hB⟩ := h d hd
  refine ⟨B, fun p hp ⟨C, hC, hlarge⟩ => ?_⟩
  have hsub : Set.range C ⊆
      {C ∈ Erdos511.components {z : ℂ | ‖p.eval z‖ < 1} | d < diam C} := by
    rintro _ ⟨i, rfl⟩
    exact ⟨componentsIn_subset _ (hlarge i).1, (hlarge i).2⟩
  have h1 := (Set.encard_le_encard hsub).trans (hB p hp)
  have h2 := hC.encard_range.trans h1
  rw [ENat.card_eq_coe_fintype_card, Fintype.card_fin] at h2
  exact absurd (by exact_mod_cast h2) (by omega)

#print axioms Erdos511Plby.not_erdos_511
#print axioms erdos_511_bridge

end Bridge511
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«511»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/511.lean [hunk 1]
```diff
@@ -0,0 +1,84 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/511.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — COMMENTED** [review]
components is syntactically identical to 1047.lean's componentsIn and inline in 1048.lean; move to ForMathlib (Topology)
